US04374843
2-Guanidino-4-(4-methyl-5-imidazolyl)thiazole hydrobromide
A mixture of 1.65 g (8.13 mmol) of 1-(4-methyl-5-imidazolyl)-2-bromoethanone in 165 ml of acetone was heated until homogeneous. 0.96 g (8.13 mmol) of amidinothiourea was added and the mixture was heated at reflux for 1 hour. The mixture was allowed to cool to room temperature and the resulting precipitate was collected by filtration. This solid amounted to 0.98 g (40%) of 2-guanidino-4-(4-methyl-5-imidazolyl)thiazole hydrobromide, mp 245° (dc); nmr (D6DMSO) (δ): 8.52 (s, 1H); 7.67 (b, 4H); 7.20 (s, 1H); 2.49 (s, 3H). Anal Calcd. for C8H10N6S.HBr: C, 31.69, H, 3.66; N, 27.72; Found: C, 31.80; H, 3.90; N, 26.90.

reactant | 1-(4-methyl-5-imidazolyl)-2-bromoethanone | 8.13 mmol, 1.65 g | CC=1N=CNC1C(CBr)=O | C6H7BrN2O
reactant | amidinothiourea | 8.13 mmol, 0.96 g | C(N)(=N)NC(=S)N | C2H6N4S
solvent | acetone | 165 ml | CC(=O)C | C3H6O
product | 2-Guanidino-4-(4-methyl-5-imidazolyl)thiazole hydrobromide | Br.N(C(=N)N)C=1SC=C(N1)C1=C(N=CN1)C | InChI=1S/C8H10N6S.BrH/c1-4-6(12-3-11-4)5-2-15-8(13-5)14-7(9)10;/h2-3H,1H3,(H,11,12)(H4,9,10,13,14);1H
